US09056859B2
Step B: tert-butyl 4-(5-amino-2,3-dihydro-1H-inden-2-yl)piperazine-1-carboxylate
To a solution of 5-nitro-indene bocpiperazine (0.740 g, 2.13 mmol) in methanol (20 mL) was added Pd/C (0.280 g, 2.63 mmol). The reaction mixture was stirred under H2 for 48 h. When the hydrogenation was complete, the reaction mixture was passed through a pad of Celite® and washed several times with methanol. The collected organics were then concentrated in vacuo and gave the title product. LC/MS: [(M+1)]+=318;

reactant | 5-nitro-indene bocpiperazine | 2.13 mmol, 0.740 g | C(=O)(OC(C)(C)C)N1CCNCC1.[N+](=O)([O-])C=1C=C2C=CCC2=CC1
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 2.63 mmol, 0.280 g | [Pd] | Pd
product | tert-butyl 4-(5-amino-2,3-dihydro-1H-inden-2-yl)piperazine-1-carboxylate | NC=1C=C2CC(CC2=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O2
